US04388313
1 g of Teba and 8 drops of a 40% methanolic solution of Triton B were added to a suspension of 10 g of 7-chloro-3-hydroxy-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one ("Lorazepam") in 50 ml of acrylonitrile and the mixture was stirred for 24 hours at room temperature. Then the reaction mixture was cooled to 4° C., the precipitate was filtered and recrystallized from ethyl acetate. 1-(2-Cyanoethyl)-7-chloro-3-hydroxy-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one, m.p. 198° to 202° C., was obtained. Without addition of Teba also the disubstituted 1-(2-cyanoethyl)-7-chloro-3-(2-cyanoethoxy)-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one, m.p. 210° to 213° C. (from acetonitrile), is obtained.

reactant | 7-chloro-3-hydroxy-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one | 10 g | ClC=1C=CC2=C(C(=NC(C(N2)=O)O)C2=C(C=CC=C2)Cl)C1 | C15H10Cl2N2O2
catalyst | Teba | 1 g | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
solvent | acrylonitrile | 50 ml | C(C=C)#N | C3H3N
product | 1-(2-Cyanoethyl)-7-chloro-3-hydroxy-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine-2-one | C(#N)CCN1C(C(N=C(C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)Cl)O)=O | C18H13Cl2N3O2
